US08293913B2
34.2 5-benzyloctahydro-1H-pyrrolo[3,4-c]pyridine-2,5-diium chloride
1.355 g of tert-butyl 5-benzylhexahydro-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (4.28 mmol) were dissolved in 10 ml of ethanol. To the solution 20 ml of 5 N HCl in isopropanol were added and the obtained mixture was stirred at room temperature for 16 h. After addition of diethyl ether the product precipitated. The product was filtered and after an additional washing with diethyl ether, the product was dried. Additional product was obtained by concentration of the filtrates and crystallization from diethyl ether. Combined amounts of product were 1.07 g.

reactant | tert-butyl 5-benzylhexahydro-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 4.28 mmol, 1.355 g | C(C1=CC=CC=C1)N1CC2C(CC1)CN(C2)C(=O)OC(C)(C)C | C19H28N2O2
reactant | HCl | 5 N, 20 ml | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 5-benzyloctahydro-1H-pyrrolo[3,4-c]pyridine-2,5-diium chloride | [Cl-].C(C1=CC=CC=C1)[NH+]1CC2C(CC1)C[NH2+]C2.[Cl-] | InChI=1S/C14H20N2.2ClH/c1-2-4-12(5-3-1)10-16-7-6-13-8-15-9-14(13)11-16;;/h1-5,13-15H,6-11H2;2*1H
